US06603005B2
A mixture of 2.6 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-piperidine-4-carboxylate in 40 cm3 of dioxane, to which was added 14 cm3 of 4 N hydrochloric dioxane, was stirred for 16 hours at a temperature in the region of 20° C. The suspension obtained was diluted by addition of 100 cm3 of diethyl ether, stirred at about 20° C. for 1 hour and then filtered. The cake was washed with twice 40 cm3 of diethyl ether and then dried in a desiccator under reduced pressure (5 kPa). 1.9 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate were obtained in the form of a white solid.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-piperidine-4-carboxylate | 2.6 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)OC | C26H35ClN2O5
reactant | diethyl ether | 100 cm3 | C(C)OCC | C4H10O
solvent | dioxane | 40 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 N, 14 cm3 | O1CCOCC1 | C4H8O2
product | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 1.9 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC | C21H27ClN2O3
